US05589593
To a mixture of 162 g of ethyl 3-α-carboxybenzylaminocrotonate potassium salt, 450 ml of dimethylformamide and 900 ml of acetonitrile, cooled to -40° C., 1.5 ml of 4-methylmorpholine and 54 ml of ethyl chloroformate are added. The mixture is stirred one hour at -40° C., then a previously cooled solution of triethylamine salt of 7-amino-3-chloro-3-cephem-4-carboxylic acid (corresponding to 99 g of free acid) in 900 ml of a mixture acetonitrile/water 1/1 (v/v) is added thereinto. The solution is kept in the cool for about 3 hours, then it is treated with 630 ml of water and filtered. The filtrate is made acid to pH 1.5 with 6N hydrochloric acid, then the pH is adjusted to 4.5 with triethyl amine. The suspension thus obtained is kept to 0° C. overnight, then it is filtered. The product thus obtained is washed with acetonitrile/water 1/1 (v/v) and dried under vacuum at 35° C. Thus, 120 g of amorphous raw cefaclor are obtained.

reactant | ethyl 3-α-carboxybenzylaminocrotonate potassium salt | 162 g | [K].C(=O)(O)C(C1=CC=CC=C1)N\C(=C/C(=O)OCC)\C
reactant | 4-methylmorpholine | 1.5 ml | CN1CCOCC1 | C5H11NO
reactant | ethyl chloroformate | 54 ml | ClC(=O)OCC | C3H5ClO2
reactant | 7-amino-3-chloro-3-cephem-4-carboxylic acid | 99 g | NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)O)C1=O | C7H7ClN2O3S
solvent | water | 630 ml | O | H2O
solvent | acetonitrile water | C(C)#N.O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 900 ml | C(C)#N | C2H3N
solvent | dimethylformamide | 450 ml | CN(C=O)C | C3H7NO
product | cefaclor | 120 g | C=1C=CC(=CC1)[C@H](C(=O)N[C@H]2[C@@H]3N(C2=O)C(=C(CS3)Cl)C(=O)O)N | C15H14ClN3O4S
